US08754226B2
To a solution of 6-fluoro-5-nitro-2,3-dihydrobenzo[b]thiophene (2.1 g, 10.5 mmol) in ethanol (80 mL), THF (40 mL), and aqueous NH4Cl (20 mL) was added Fe (O) (3.53 g, 63.3 mmol). The mixture was refluxed for 2 hours, then filtered through celite and washed with ethyl acetate. The residue was purified using silica gel column chromatography with 50% ethyl acetate in hexanes to provide 6-fluoro-2,3-dihydrobenzo[b]thiophen-5-amine (1.68 g, 94.2% yield).

reactant | 6-fluoro-5-nitro-2,3-dihydrobenzo[b]thiophene | 10.5 mmol, 2.1 g | FC=1C(=CC2=C(SCC2)C1)[N+](=O)[O-] | C8H6FNO2S
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Fe | 63.3 mmol, 3.53 g | [Fe] | Fe
product | 6-fluoro-2,3-dihydrobenzo[b]thiophen-5-amine | 1.68 g, 94.2% yield | FC=1C(=CC2=C(SCC2)C1)N | C8H8FNS
